US05366982
6-[(4,6-diphenyl-2-pyridyl)oxy]hexanoic acid
To a solution of ethyl 6-[(4,6-diphenyl-2-pyridyl)oxy]hexanoate (3.7 g) in ethanol (100 cc) are added sodium hydroxide pellets (0.6 g). The reaction mixture is refluxed for 1 hour and then concentrated to dryness under reduced pressure. The residue obtained is dissolved in distilled water (150 cc). The pH of the aqueous phase is brought to about 5 by addition of a 2N aqueous solution of hydrochloric acid. It is then extracted with methylene chloride (3×50 cc). The organic phases are combined, washed with distilled water (3×50 cc), dried over sodium sulphate and concentrated to dryness at 40° C. under reduced pressure. The solid residue obtained is purified by recrystallization in an n-hexane-ethyl acetate (10-1) mixture (55 cc). (white crystals; m.p.=87°-88° C.)

reactant | ethyl 6-[(4,6-diphenyl-2-pyridyl)oxy]hexanoate | 3.7 g | C1(=CC=CC=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC(=O)OCC | C25H27NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 cc | C(C)O | C2H6O
solvent | water | 150 cc | O | H2O
product | 6-[(4,6-diphenyl-2-pyridyl)oxy]hexanoic acid | C1(=CC=CC=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC(=O)O | C23H23NO3
